US07045543B2
N-acetyl serotonin was synthesized as follows. 100 mg (0.47 mmol) serotonin hydrochloride and 10 mL of pyridine were mixed in a 100 mL round-bottomed flask, and the solution was cooled to 0° C. under argon. Acetic anhydride (2.84 g, 28.4 mmol) was added slowly over 1 hr. After stirring at 0° C. for 20 hr the reaction was terminated by removing the volatile reagents under high vacuum. The remaining syrup was dissolved into 25 mL of methylene chloride and washed with 0.1 M HCl until the pH of the aqueous phase was less than 3. The organic phase was dried under anhydrous sodium sulfate, filtered and concentrated to yield a syrup. To this syrup was added 25 mL of aqueous isopropyl alcohol (50 wt%) and the solution was cooled to 0° C. Sodium hydroxide (1 mL of a 1.0 mM solution) was added and stirred at 0° C. for 4 hr. The solution was neutralized with acetic acid, concentrated and filtered through a short plug of silica gel with ether, concentrated and recrystallized from benzene/chloroform to yield 27 mg (0.11 mmol) of N-acetyl serotonin.

reactant | serotonin hydrochloride | 0.47 mmol, 100 mg | C1=CC2=C(C=C1O)C(=CN2)CCN.Cl
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 28.4 mmol, 2.84 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | isopropyl alcohol | 25 mL | C(C)(C)O | C3H8O
product | N-acetyl serotonin | 0.11 mmol, 27 mg | CC(=O)NCCC1=CNC2=C1C=C(C=C2)O | C12H14N2O2
